US08217032B2
[6-Methoxy-2-(2,3,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Couple trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (1.81 g, 3.37 mmol) with 2-bromo-1,3,4-trifluoro-benzene (1.42 g, 6.75 mmol) in a procedure similar to the preparation of [6-hydroxy-2-(2,3,5-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone to give 0.79 g (45%) of the title compound: mass spectrum (ion spray): m/z=520.3 (M+1).

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 3.37 mmol, 1.81 g | COC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO6S
reactant | 2-bromo-1,3,4-trifluoro-benzene | 6.75 mmol, 1.42 g | BrC1=C(C=CC(=C1F)F)F | C6H2BrF3
reactant | [6-hydroxy-2-(2,3,5-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | OC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C(=CC(=C1)F)F)F | C30H26F3NO3
product | [6-Methoxy-2-(2,3,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 0.79 g, 45% | COC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C(=CC=C1F)F)F | C31H28F3NO3
